US05846995
N-(N,N-Dipropyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-3-furamide hydrochloride
Beginning with 0.072 gm (0.20 mMol) 8-amino-1,2,3,4-tetrahydro-2-dipropylaminodibenzofuran and 0.026 gm (0.20 mMol) furan-3-carbonyl chloride, 0.064 gm (84%) of the title compound were recovered as a white foam by the procedure described in Example 17.

reactant | 8-amino-1,2,3,4-tetrahydro-2-dipropylaminodibenzofuran | 0.20 mMol, 0.072 gm | NC=1C=CC2=C(C3=C(O2)CCC(C3)N(CCC)CCC)C1 | C18H26N2O
reactant | furan-3-carbonyl chloride | 0.20 mMol, 0.026 gm | O1C=C(C=C1)C(=O)Cl | C5H3ClO2
product | N-(N,N-Dipropyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-3-furamide hydrochloride | 0.064 gm, 84% | Cl.C(CC)N(C1CC2=C(OC3=C2C=C(C=C3)NC(=O)C3=COC=C3)CC1)CCC | InChI=1S/C23H28N2O3.ClH/c1-3-10-25(11-4-2)18-6-8-22-20(14-18)19-13-17(5-7-21(19)28-22)24-23(26)16-9-12-27-15-16;/h5,7,9,12-13,15,18H,3-4,6,8,10-11,14H2,1-2H3,(H,24,26);1H
